Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain, Blurry vision, Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old female with history significant
for hypertension, hypothyroidism s/p thyroidectomy and PVD (dx 
in
___ who initially presented to her with chest pain,
headache, and blurry vision and was referred to the ___ then ED
and found to be hypertensive to 181/89. 

Per history obtained in the ED, she woke up with pressure of
170/110 and was having a headache with blurry vision. She began
having chest pain described as sharp substernal and 
nonradiating.
Patient also has some shortness of breath but denied having
diaphoresis, nausea, or vomiting. She complained of having
chronic leg swelling that has progressively worsened. Patient
states she spoke to her PCP who advised her to come in for
evaluation for hypertensive emergency. In the ED she continued 
to
have chest pain, some headache is bitemporal and some blurry
vision. She denied any neurological deficits, numbness or
tingling or weakness. Patient also complaining of generalized
abdominal pain however no fever no chills no dysuria no diarrhea
constipation.

In the ED, initial vitals were: 97.5, 63, 181/89, 16, 97% on RA

Exam was notable for:
Con: In no acute distress
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Resp: Clear to auscultation
CV: Slow rate and rhythm, normal ___ and ___ heart sounds, no 
___
heart sound, no JVD, bilateral 2+ pedal edema, 2+ distal upper
extremity pulses lower extremity pulses not palpable due to
edema. Capillary refill less than 2 seconds.
Abd: Soft, tenderness to palpation diffusely, Nondistended
GU: No costovertebral angle tenderness
MSK: No cyanosis, clubbing or bilateral lower extremity 2+
pitting edema, 4 out of 5 strength bilaterally skin: No rash,
Warm and dry, No petechiae
Neuro: Alert and following commands, moving all extremities
spontaneously, sensation intact to light touch, speech fluent
Psych: Normal mood/mentation

Labs were notable for: (use specific numbers)
- Trops <0.01 x2
- BMP 126.2
- U/A, UC pending
Studies were notable for: 

ECG
ECG with new LBBB but without concerning STTW changes

CT HEAD W/O CONTRAST
No acute intracranial process.

CHEST (PA AND LAT) 
No acute intrathoracic process.

CTA CHEST 
WET READ:
1. No evidence of pulmonary embolism or aortic abnormality. 
 2. Enlarged pulmonary artery suggests an element of pulmonary
hypertension. 
 3. Multiple bilateral ground-glass nodules are noted with a
peripheral 
 distribution, some with cystic changes, measuring up to 1 cm is
likely 
 inflammatory in nature. Three-month follow-up is recommended to
document 
 stability. 

The patient was given:
- 0.4mg SL nitro
- IV Lorazepam
- 2mg Morphine IV

Consults:
- Cardiology

On arrival to the floor she is hemodynamically stable with BP
160/82 in no acute distress. She continues to endorse ___
nonradiating chest pain and blurry vision in her eyes, left eye
worsening. She denies missing any medications, denies recent 
high
salt intake or stressful event. Does not increased ___ swelling
and some weight gain. Endorses PND, orthopnea. Last
hospitalization for HTN was in ___ in ___. She states she
takes her BP regularly and normally runs 120/80 and if her blood
pressure rises over 130 she has symptoms including blurry 
vision,
headache, and chest pain. 

 
Past Medical History:
Hypertension
Hypothyroidism (s/p thyroidectomy)
Low back pain
Peripheral vascular disease (dx in ___
History of breast abscess

 
Social History:
___
Family History:
Grandmother - diabetes
Mother with heart disease, cancer   
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
___ 1512 Temp: 98.0 PO BP: 131/73 HR: 58 RR: 16 O2 
sat: 97%
O2 delivery: Ra  
GENERAL: ___, obese woman lying in bed, alert and
interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Distant heart sounds. Regular rhythm, normal rate. Soft
but audible S1 and S2, no S3 appreciated. No
murmurs/rubs/gallops. No JVD appreciated. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, 1+ BLE edema. Right ankle
effusion TTP. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM
=======================
___ 1521 Temp: 98.5 PO BP: 124/67 R Lying HR: 57 RR: 
16 O2 sat: 96% O2 delivery: Ra
GENERAL: ___, obese woman lying in bed, alert and
interactive
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy.
CARDIAC: Distant heart sounds. Regular rhythm, normal rate. Soft
but audible S1 and S2
LUNGS: Clear to auscultation bilaterally. No wheezes
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: No clubbing, cyanosis, 1+ BLE edema. No ankle 
effusion
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. Gait normal.

 
Pertinent Results:
ADMISSION LABS:
================
___ 07:34PM   WBC-6.4 RBC-4.52 HGB-12.4 HCT-39.4 MCV-87 
MCH-27.4 MCHC-31.5* RDW-15.1 RDWSD-48.4*
___ 07:34PM   NEUTS-61.3 ___ MONOS-7.3 EOS-2.3 
BASOS-0.9 IM ___ AbsNeut-3.93 AbsLymp-1.79 AbsMono-0.47 
AbsEos-0.15 AbsBaso-0.06
___ 07:34PM   PLT COUNT-218
___ 07:34PM   ___ PTT-35.0 ___
___ 07:34PM   TSH-0.54
___ 07:34PM   T4-8.4
___ 07:34PM   %HbA1c-6.0 eAG-126
___ 07:34PM   ALBUMIN-4.0 CALCIUM-9.3 PHOSPHATE-3.9 
MAGNESIUM-2.0
___ 07:34PM   cTropnT-<0.01
___ 07:34PM   CK-MB-2 proBNP-126
___ 07:34PM   ALT(SGPT)-21 AST(SGOT)-22 CK(CPK)-121 ALK 
PHOS-85 TOT BILI-0.4

IMAGING RESULTS
===============
CXR ___
No acute intrathoracic process.

CTA Chest ___
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Enlarged pulmonary artery suggests an element of pulmonary 
hypertension 
3. Mild emphysema with multiple bilateral ground-glass nodules 
are noted with 
a peripheral distribution, some with cystic changes, measuring 
up to 1 cm is 
likely inflammatory in nature.  3-month follow-up is recommended 
document 
stability. 
  
RECOMMENDATION(S):  Three-month follow-up document stability of 
bilateral 
ground-glass pulmonary nodules. 

CT Head ___
No acute intracranial process.

Cardiac Perfusion Test ___
1.  No clear perfusion defects, mild-to-moderate anteroapical 
fixed 
defects are likely due to attenuation.  
  
2.  Mild hypokinesis and dilated left ventricle (EDV 166 mL) 
with reduced 
ejection fraction (41%) are new when compared to prior exam 
dated ___.  This represents a decline in cardiac function since the 
last exam. 

Stress ___
Non-anginal symptoms. ST segments uninterpretable in the 
setting of a LBBB. Nuclear report sent seperately. 

DISCHARGE LABS:
===============
___ 05:49AM BLOOD WBC-5.5 RBC-4.32 Hgb-12.1 Hct-37.8 MCV-88 
MCH-28.0 MCHC-32.0 RDW-14.8 RDWSD-47.8* Plt ___
___ 05:49AM BLOOD Glucose-107* UreaN-15 Creat-0.8 Na-142 
K-4.1 Cl-104 HCO3-27 AnGap-11
___ 05:49AM BLOOD Calcium-8.9 Phos-4.4 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ year-old with history of hypertension who
presents with chest pain, headache, and blurry vision and was
found to be hypertensive to 181/89. CTA chest did not show
pulmonary embolism or aortic abnormality, Troponins were 
negative,
and cardiology was consulted and recommended pharmacologic
cardiac perfusion scan and titration of BP medications. Her 
blood pressure was stabilized, she was clinically stable and 
discharged home with PCP follow up to further titrate 
medications as needed. 

ACUTE/ACTIVE ISSUES:
====================
#Chest pain
#Hypertensive emergency
Pt presented with chest pain, headache, and blurry vision with 
significantly elevated blood pressures to 181/89 indicative end 
organ dysfunction suggestive of hypertensive emergency. She was 
given nitro, Ativan and morphine. ECG with new LBBB but without 
concerning STTW changes. Trops negative. CTA did not show 
pulmonary or cardiac abnormality. Cardiology was consulted and 
suggested pharmacologic stress test. This showed no clear 
perfusion defect on pharm stress test but with worse cardiac 
function compared with prior echo (EF 41%). Of note, patient is 
not clinically overloaded on exam. She had been taking 
Enalapril/HCTZ ___ daily, taking 2 when BP >150. Her BP were 
somewhat labile here from 130s-160s on the floor not on 
antihypertensive medications. She was started on fractionated 
captopril 6.25mg q6h and transitioned to Lisinopril 10mg on 
discharge. She should follow up with PCP for further titration 
and may benefit from closer blood pressure follow-up given her 
significant lability.

#?urinary retention
UA/UC negative although patient initially reported sensation of 
fullness and possible urinary retention. She notably voided on 
her own during hospital stay.

CHRONIC/STABLE ISSUES:
======================
# Hypothyroidism s/p thyroidectomy
Patient has a history of thyroidectomy, and per her family, she 
was maintained on a Ukranian synthroid equivalent of 200mcg 
daily. Her TSH and free T4 were within normal range. She was 
prescribed levothyroxine on discharge.

TRANSITIONAL ISSUES
===================

NEW MEDICATION: 
- Lisinopril 10mg (recommend taking half pill if SBP < 100)
- Levothyroxine 200 mcg

[ ] Follow up with primary care provider for continued work up 
of hypertension and titration of blood pressure medications as 
necessary. Per PCP, can refer to cardiology to review pharm 
stress study findings.
[] Recommend continued measurement of blood pressure daily
[] CT scan showed mild emphysema with multiple bilateral 
ground-glass nodules noted with a peripheral distribution, some 
with cystic changes, measuring up to 1 cm is likely inflammatory 
in nature. 3-month follow-up is recommended document stability. 

# CODE: Presumed full
# CONTACT: ___ (daughter) ___, ___ (son in law) ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications
(She was taking Ukranian medications without refills)
 
Discharge Medications:
1.  Levothyroxine Sodium 200 mcg PO DAILY 
RX *levothyroxine 200 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
2.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMAY DIAGNOSIS
================
Hypertensive emergency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

 It was a privilege caring for you at ___!

 WHY WAS I IN THE HOSPITAL?  
 - You presented to your primary care physician with chest pain, 
headache, and blurry vision with elevated blood pressure. They 
sent you to the emergency department for further workup and 
evaluation of your blood pressure.

 - Your blood pressure remained elevated in the ED and you were 
admitted for titration of your blood pressure medications given 
your old medications were prescribed in the ___. 

 WHAT HAPPENED TO ME IN THE HOSPITAL?  
 - While you were in the hospital you were having chest pain and 
we did an EKG to evaluate your heart as well as some lab tests 
to evaluate your heart. These tests did not show any evidence of 
a heart attack or acute heart problem.

 - We did a nuclear stress test exam of your heart to evaluate 
your heart function which showed some decreased function since 
your last heart exam in ___. However, overall it was working 
well and there were no specific areas of damage.
 
 - We started you on short acting blood pressure medications and 
monitored your blood pressure. Once your blood pressure started 
to stabilize and your headache and blurry vision resolved, we 
transitioned you to a long-acting blood pressure medication 
(Lisinopril). 

 - We continued to give you your levothyroxine for your thyroid.

 WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - We have set up a follow-up appointment with your primary care 
physician. Please make sure to attend to continue to evaluate 
your blood pressure and ensure you are on the best blood 
pressure medications for you. 

 - Continue to take your blood pressure medication (This 
medication is called Lisinopril) and monitor your blood pressure 
at home. If it becomes elevated and you have chest pain, 
headache, and blurry vision again, call your primary care doctor 
or return to the emergency department.  You can take half of the 
pill if you have low blood pressure (SBP < 100) instead of the 
full pill.

 - Continue to take your levothyroxine for your thyroid.  
 
NEW MEDICATIONS:
Lisinopril 10mg (Take 5mg if blood pressure is less than 100)
Synthroid ___ mcg

 We wish you the best!  
 Sincerely,  
 Your ___ Team  
 
Followup Instructions:
___